data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4517,5152,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:15]([C:16]([CH3:17])=[O:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:14]=[C:13]1[C:11]([CH3:10])=[O:12],water,298.15,21.24313228067512,-28.67978049114334
5209,5910,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[CH-:18][NH+:19]=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:18]([C:16]([CH3:15])=[O:17])[NH:19][C:20]2([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,14.748461014069491,4.925368364239652
1910,2118,[CH3:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:23]([C:24]#[N:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:21]([CH3:22])[C:14]2([C:12]([CH3:11])=[O:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,30.490523142298866,-16.18923592217746
402,438,[CH3:10][C:11]#[N+:12][C-:13]([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:13]([C:14]([CH3:15])=[O:16])([C:17]([CH3:18])=[O:19])[N:12]=[C:11]2[CH3:10],water,298.15,22.78104303892964,-20.757265876150857
2341,2599,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][N-:21][C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[N:21]([C:22]([CH3:23])=[O:24])[O:20][C:19]3([C:17]([NH:16][CH3:15])=[O:18])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,11.312971007744286,-52.585401898564704
2396,2661,[CH3:19][NH:20][C:21](=[O:22])[C:23]([C:24]#[N:25])=[N+:26]([CH3:27])[N-:28][C:29](=[O:30])[O:31][CH3:32].[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[N:28]([C:29](=[O:30])[O:31][CH3:32])[N:26]([CH3:27])[C:23]2([C:21]([NH:20][CH3:19])=[O:22])[C:24]#[N:25],water,298.15,18.52134801783268,-30.423871662094086
3451,3930,[CH3:10][C:11](=[O:12])[N:13]=[N+:14]([CH3:15])[N-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[N:16]1[C:17]#[N:18],water,298.15,25.11820171194401,-10.89391528651633
557,609,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2.[CH:12]#[N+:13][C-:14]([CH3:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:14]([CH3:15])([C:16]([CH3:17])=[O:18])[N:13]=[CH:12]2,water,298.15,23.85236477408069,-37.3694821664285
1219,1328,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])=[N:18][C:19]2([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25],water,298.15,16.26494628232523,-43.181779772452686
1581,1750,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([N+:21]#[C:22][C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:26]([CH3:27])=[O:28])[N:21]=[C:22]2[C:23]([CH3:24])=[O:25],water,298.15,19.94502270057234,-17.259284968428695
4064,4655,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][NH+:16]=[CH:17][C:18](=[O:19])[O:20][CH3:21]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[NH:16][CH:17]2[C:18](=[O:19])[O:20][CH3:21],water,298.15,24.01947549743225,-10.93895154172258
